US07968570B2
A mixture of 5-bromo-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.120 g, 0.3 mmol), 2-(4-methyl-piperazin-1yl)-ethanol (0.074 mL, 0.6 mmol), Pd(OAc)2 (0.002 g, 0.006 mmol), and Cs2CO3 (0.195 g, 0.6 mmol) in toluene (3 mL) was stirred at 100° C. for 24 h. Workup and silica gel column chromatography using 5:1 CHCl3-MeOH afforded 7-methyl-5-[2-(4-methyl-piperazin-1-yl)-ethoxy]-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-lone (0.025 g, 18%). 1H NMR (300 MHz, CDCl3): δ (ppm) 2.49 (bs, 8H), 2.75 (s, 3H), 2.83 (t, 2H), 4.16 (m, 5H), 4.73 (s, 2H), 6.70 (d, 2H), 7.13-7.37 (m, 4H).

reactant | 5-bromo-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.3 mmol, 0.120 g | BrC=1C=C2CN(C(C2=C(C1)C)=O)CC1=CC=C(C=C1)OC(F)(F)F | C17H13BrF3NO2
reactant | 2-(4-methyl-piperazin-1yl)-ethanol | 0.6 mmol, 0.074 mL | CN1CCN(CC1)CCO | C7H16N2O
reactant | Cs2CO3 | 0.6 mmol, 0.195 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.006 mmol, 0.002 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 7-methyl-5-[2-(4-methyl-piperazin-1-yl)-ethoxy]-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol | 0.025 g, 18% | CC=1C=C(C=C2CN(CC12)CC1=CC=C(C=C1)OC(F)(F)F)OCCN1CCN(CC1)C | C24H30F3N3O2
